US04952580
To a stirred suspension of 0.4 gram (0.01 mole) of lithium aluminum hydride in 20 ml of diethyl ether was added dropwise a solution of 1.5 grams (0.01 mole) of 4,5,5-trifluoro-4-pentenoic acid in 30 ml of diethyl ether. Upon completion of addition the reaction mixture was stirred at ambient temperature for one hour, then 20 ml of water was added carefully. The mixture was filtered and the filtrate concentrated under reduced pressure to give 0.8 gram of 4,5,5-trifluoro-4-penten-1-ol as an oil. The nmr and the ir spectra were consistent with the proposed structure.

reactant | lithium aluminum hydride | 0.01 mole, 0.4 gram | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | 4,5,5-trifluoro-4-pentenoic acid | 0.01 mole, 1.5 grams | FC(CCC(=O)O)=C(F)F | C5H5F3O2
reactant | water | 20 ml | O | H2O
solvent | diethyl ether | 20 ml | C(C)OCC | C4H10O
solvent | diethyl ether | 30 ml | C(C)OCC | C4H10O
product | 4,5,5-trifluoro-4-penten-1-ol | 0.8 gram | FC(CCCO)=C(F)F | C5H7F3O
